US08202899B2
Step E3: Preparation of 2-(1H-indazol-5-yloxy)-5-fluorobenzonitrile:
2-(1-Acetyl-1H-indazol-5-yloxy)-5-fluorobenzonitrile (369.4 mL, 221.7 mmol) in 370 mL MeOH was treated with 1.0 N HCl (243.8 mL, 243.8 mmol) at ambient temperature. The brown suspension was warmed to 70° C. for 28 hours and then cooled to 0° C. Sodium hydroxide (254.9 mL, 254.9 mmol) was added, followed by water (400 mL). The reaction was stirred at 0° C. for 15 minutes and then filtered. The solids were washed with water (1.5 and dried under high vacuum at 40° C. for 72 hours to provide 51.2 g of the desired product as a tan solid (91% yield for steps 2 and 3).

reactant | 2-(1-Acetyl-1H-indazol-5-yloxy)-5-fluorobenzonitrile | 221.7 mmol, 369.4 mL | C(C)(=O)N1N=CC2=CC(=CC=C12)OC1=C(C#N)C=C(C=C1)F | C16H10FN3O2
reactant | HCl | 243.8 mmol, 1.0 N, 243.8 mL | Cl | ClH
reactant | Sodium hydroxide | 254.9 mmol, 254.9 mL | [OH-].[Na+]
reactant | water | 400 mL | O | H2O
solvent | MeOH | 370 mL | CO | CH4O
product | 2-(1H-indazol-5-yloxy)-5-fluorobenzonitrile | 51.2 g, 91% yield | N1N=CC2=CC(=CC=C12)OC1=C(C#N)C=C(C=C1)F | C14H8FN3O
